US06730788B1
An embodiment of the above described 2-step process is shown in the following reaction scheme wherein R is hydrogen and 2-[(1-hydroxy-1-methylpropyl)]-1,10-phenanthroline is prepared by coupling methyl ethyl ketone with 1,10-phenanthroline, and the coupling product alkylated with methyl iodide and sodium hydride to form 2-[(1-methoxy-1-methylpropyl)]-1,10-phenanthroline. The latter is reduced with the lanthanideII reducing agent, samarium diiodide, to provide 2-(1-methylpropyl)-1,10-phenanthroline.

reactant | 1,10-phenanthroline | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 2-[(1-methoxy-1-methylpropyl)]-1,10-phenanthroline | COC(CC)(C)C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C17H18N2O
